US07074799B2
To a suspension of [2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine hydrochloride (1.9 g, 0.0037 mol) in dry isopropanol (100 mL), add 20 equivalents of NaO-i-Pr (prepared from Na and isopropanol). Stir the pale yellow mixture at 60° C. for 5 hours, cool and evaporate the solvent under reduced pressure. Partition the residue between ethyl acetate and water and wash the organic layer with water (1×). Dry the organic layer (Na2SO4) and concentrate to give [2-isopropoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine as a foam.

reactant | [2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine hydrochloride | 0.0037 mol, 1.9 g | Cl.ClCC1=NC2=CC(=CC=C2C(=N1)NC1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F
reactant | NaO-i-Pr | 20 equivalents | O([Na])C(C)C
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | [2-isopropoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine | C(C)(C)OCC1=NC2=CC(=CC=C2C(=N1)NC1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C25H20F6N4O
